US04156011
N,N-Diethyl-2-[4-(4-chlorophenoxy)-phenoxy]-ethylamine hydrochloride Code No. CRL 40 330
A solution of 13.2 g (0.075 mol) of 2-(N,N-diethylamino)-1-chloroethane hydrochloride in 30 ml of water is run over the course of 30 minutes into a solution, kept at about 60° C., of 15 g (0.068 mol) of p-(p-chlorophenoxy)-phenol and 6.3 g (0.157 mol) of sodium hydroxide pellets in 20 ml of water and 20 ml of ethanol. The mixture is heated to the reflux temperature for 1 hour and the ethanol is evaporated under reduced pressure. The aqueous phase is extracted with diethyl ether and the organic phase obtained is washed with water until neutral, dried over dry sodium sulphate and evaporated to dryness under reduced pressure. The oily residue is treated in a solution of hydrogen chloride in diethyl ether, to give 20 g of a white powder. Recrystallisation from ethyl acetate gives 18 g of CRL 40 330

reactant | 2-(N,N-diethylamino)-1-chloroethane hydrochloride | 0.075 mol, 13.2 g | Cl.C(C)N(CC)CCCl
reactant | p-(p-chlorophenoxy)-phenol | 0.068 mol, 15 g | ClC1=CC=C(OC2=CC=C(C=C2)O)C=C1 | C12H9ClO2
reactant | sodium hydroxide | 0.157 mol, 6.3 g | [OH-].[Na+]
solvent | water | 30 ml | O | H2O
solvent | water | 20 ml | O | H2O
solvent | ethanol | 20 ml | C(C)O | C2H6O
product | N,N-Diethyl-2-[4-(4-chlorophenoxy)-phenoxy]-ethylamine hydrochloride | 20 g, Yield 74.3% | Cl.C(C)N(CC)CCOC1=CC=C(C=C1)OC1=CC=C(C=C1)Cl | InChI=1S/C18H22ClNO2.ClH/c1-3-20(4-2)13-14-21-16-9-11-18(12-10-16)22-17-7-5-15(19)6-8-17;/h5-12H,3-4,13-14H2,1-2H3;1H
